US06930109B2
Toluene-4-sulfonic Acid 7,8-dihydro-6H-5-oxa-1-aza-phenanthren-6-ylmethyl ester
(7,8-Dihydro-6H-5-oxa-1-aza-phenanthren-6-yl)-methanol (0.27 g, 1.3 mmole) was dissolved in 75 mL of methylene chloride and p-toluenesulfonyl chloride (0.60 g, 3.1 mmole) added. The mixture was placed in an ice/isopropanol bath and first N,N-diisopropylethylamine (0.55 mL, 3.1 mmole) and then N,N-dimethyaminopyridine added. The mixture was allowed to stir under nitrogen for 5 days. It was washed with 150 mL portions of 2 N aqueous HCl, saturated aqueous sodium bicarbonate and saturated brine, dried over magnesium sulfate, filtered and concentrated in vacuum to an orange oil. Column chromatography on silica gel with 0-5% methanol/methylene chloride gave 0.22 g of the title compound. 1H-NMR (CDCl3): doublet 8.8 δ (1H); doublet 8.25 δ (1H); doublet 7.8 δ (2H); doublet 7.6 δ (1H); multiplet 7.3 δ (4H); multiplet 4.4 δ (1H); doublet 4.3 δ (2H); multiplet 2.9 δ (2H); singlet 2.4 δ (3H); multiplet 2.0 δ (2H).

reactant | (7,8-Dihydro-6H-5-oxa-1-aza-phenanthren-6-yl)-methanol | 1.3 mmole, 0.27 g | N1=CC=CC2=C3OC(CCC3=CC=C12)CO | C13H13NO2
reactant | p-toluenesulfonyl chloride | 3.1 mmole, 0.60 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | N,N-diisopropylethylamine | 3.1 mmole, 0.55 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methylene chloride | 75 mL | C(Cl)Cl | CH2Cl2
product | Toluene-4-sulfonic Acid 7,8-dihydro-6H-5-oxa-1-aza-phenanthren-6-ylmethyl ester | 0.22 g | N1=CC=CC2=C3OC(CCC3=CC=C12)COS(=O)(=O)C1=CC=C(C=C1)C | C20H19NO4S
